US04054663
4-(4-Isopropylallophanoyl)-2-nitropyridine (Compound No. 80)
To 30 ml. of toluene were added 0.8 g of 2-nitroisonicotinamide and 1.7 g. of isopropyl isocyanate, and the mixture was refluxed for 6 hours. The reaction mixture was cooled and filtered removing 0.4 g. of the insoluble starting material. The filtrate was concentrated, and the residue was purified by silica gel chromatography and recrystallized from ethyl acetate - n-hexane to yield 0.08 g. of the desired product.

reactant | 2-nitroisonicotinamide | 0.8 g | [N+](=O)([O-])C=1C=C(C(=O)N)C=CN1 | C6H5N3O3
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Isopropylallophanoyl)-2-nitropyridine | C(C)(C)NC(NC(=O)C1=CC(=NC=C1)[N+](=O)[O-])=O | C10H12N4O4
